US07728005B2
To 2-bromoethylamine hydrobromide (10 g) were added di-t-butyl dicarbonate (12.8 g), triethylamine (16.9 ml) and tetrahydrofuran (120 ml), and the mixture was stirred at room temperature for 15 hrs. The mixture was diluted with ethyl acetate. After washing with 1% aqueous KHSO4 solution, the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated to give t-butyl 2-bromoethylcarbamate as a crude product (12.4 g).

reactant | 2-bromoethylamine hydrobromide | 10 g | Br.BrCCN
reactant | di-t-butyl dicarbonate | 12.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 16.9 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl 2-bromoethylcarbamate | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
